US06528525B1
2-Butyl-3-[4-[2-(3′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-212 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(3′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (730 mg), which is the product of Example 31, was reacted with aqueous sodium hydroxide solution (1N, 4.50 ml) and the reaction mixture was treated to give the title compound (520 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(3′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 730 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C31H37NO5
reactant | sodium hydroxide | 1N, 4.50 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(3′-methoxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 520 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C29H33NO5
